US07632840B2
4-(3-Chloro-2-fluoroanilino)-7-methoxyquinazoline-6-carbaldehyde was coupled with 1-aminocyclopropanecarboxylic acid using an analogous method to that described for the equivalent step in Example 1 to give 1-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)amino]cyclopropanecarboxylic acid; 1H NMR Spectrum: (DMSO d6) 0.90-1.00 (m, 2H); 1.10-1.20 (m, 2H); 3.93 (s, 2H); 3.96 (s, 3H); 7.14 (s, 1H); 7.28 (m, 1H); 7.40-7.55 (m, 2H); 8.29 (s, 1H); 8.40 (s, 1H); Mass Spectrum: (M+H)+ 417. 1-[({4-[(3-Chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)amino]cyclopropanecarboxylic acid reacted with para-formaldehyde using an analogous method to that described for the equivalent step in Example 11 to give 1-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]cyclopropanecarboxylic acid; 1H NMR Spectrum: (DMSO-d6) 1.08 (m, 2H); 1.21 (m, 2H); 2.43 (s, 3H); 3.94 (s, 3H); 4.08 (s, 2H); 7.17 (s, 1H); 7.28 (t, 1H); 7.52 (m, 2H); 8.21 (s, 1H); 8.42 (s, 1H); 9.73 (s, 1H); Mass Spectrum: (M+H)+ 431

reactant | 4-(3-Chloro-2-fluoroanilino)-7-methoxyquinazoline-6-carbaldehyde | ClC=1C(=C(NC2=NC=NC3=CC(=C(C=C23)C=O)OC)C=CC1)F | C16H11ClFN3O2
reactant | 1-aminocyclopropanecarboxylic acid | NC1(CC1)C(=O)O | C4H7NO2
product | 1-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)amino]cyclopropanecarboxylic acid | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CNC1(CC1)C(=O)O)OC)F | C20H18ClFN4O3
